US07495103B2
(6-Amino-1H-indol-3-yl)-acetic acid ethyl ester (B-17) was synthesized following the general scheme above starting from 6-nitroindole and iodo-acetic acid ethyl ester. Overall yield (24%). HPLC. ret. time 0.95 min, 10-99% CH3CN, 5 min run; ESI-MS 219.2 m/z (MH+).

reactant | 6-nitroindole | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | iodo-acetic acid ethyl ester | C(C)OC(CI)=O | C4H7IO2
solvent | CH3CN | CC#N | C2H3N
product | (6-Amino-1H-indol-3-yl)-acetic acid ethyl ester | C(C)OC(CC1=CNC2=CC(=CC=C12)N)=O | C12H14N2O2
